US07541372B2
4-{3-Methoxy-4-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-phenyl}-morpholine
As described for example 26, 2-(4-fluoro-2-methoxy-phenyl)-5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazole (200 mg, 0.57 mmol) was converted using morpholine instead of thiomorpholine to the title compound (SiO2, heptane:ethyl acetate:dichloromethane=60:20:20 to 0:80:20, 132 mg, 55%) which was obtained as an off-white solid. MS: m/e=419.2 [M+H]+.

reactant | 2-(4-fluoro-2-methoxy-phenyl)-5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazole | 0.57 mmol, 200 mg | FC1=CC(=C(C=C1)C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1)OC | C19H14FN3O3
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 4-{3-Methoxy-4-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-phenyl}-morpholine | 132 mg, 55% | COC=1C=C(C=CC1C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1)N1CCOCC1 | C23H22N4O4
